Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Cat bite with infected wound
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is an ___ year old ___ female with h/o HTN, 
CAD s/p NSTEMI, PVD, who is admitted for an infected cat bite. 
Two days ago pt was walking at night and saw a cat, she went to 
give it food and the cat big her left ankle. The following day 
her left foot started to turn red and swollen. Painful to touch 
and movement. Her daughter brought her to the ED. Pt denies any 
fevers, no chills. In ED, vitals were: T98.9 HR51 BP 134/48 RR16 
O2 100%RA. She had normal X-ray of foot. She was given Unasyn IV 
for infection.
.
On the floor, Vitals: T=96.7, BP 140/70, HR 65, RR 18, 98%RA.

Peripheral vascular disease
 
Past Medical History:
Dupuytens Contracture
Hypertension
CAD, status post NSTEMI with stent placement in L circumflex and 
RCA, Inferior MI in ___
Asthma
Peripheral vascular disease
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VS - Temp 96.7 F, 140/70 BP , 65HR , 18R , O2-sat 98 % RA
GENERAL - NAD, elderly woman
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear
NECK - supple, no thyromegaly, no carotid bruits
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use
HEART - Systolic murmur at left sternal border, irregular 
rhythm.
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding
EXTREMITIES - 2+ peripheral pulses (radials). Left ___ erythema, 
warm, swollen at dorsal surface of foot from mid-metarasal up to 
low shin. Patient has limited range of motion secondary to pain. 
2 small puncture wounds around medial maleolus, from cat teeth 
are seen.
LYMPH - no cervical, axillary, or inguinal LAD
NEURO - awake, oriented
 
Pertinent Results:
___ 01:59PM   WBC-11.5* RBC-4.11* HGB-12.7 HCT-37.2 MCV-90 
MCH-30.8 MCHC-34.0 RDW-13.5

Blood Culture form ___ no growth on day of discharge.

X-ray ___: IMPRESSION: Mild soft tissue swelling over the 
medial malleolus, but no
radiographic evidence of acute osteomyelitis. If clinical 
concern persists,
bone scan or MRI are more sensitive.
 
Brief Hospital Course:
Ms. ___ is an ___ y.o. F with CAD, PVD, HTN admitted for left 
foot infection in setting of cat bite.

#Left foot infection: Left foot from mid-tarsal to mid-shin on 
dorsal aspect was warm, red, and swollen, consistent with 
cellulitis. She was started on empiric coverage with Unasyn. 
X-ray was negative for obvious signs of osteomyelitis of joint 
effusion. WBC was elevated at 11. CRP and ESR mildly elevated 
likely nonspecific and suggestive of underlying cellulitis 
infection. Patient's foot improved on hospital day 2 and she was 
sent home on a 10 day course of Augmentin. Pt was afebrile 
throughout admission.
Given that the cat was ___ and was not currently quarantined, 
there was a concern for rabies exposure. ___ Infectious 
Disease was called and they reccomended rabies vaccine and 
immunoglobulin. The immunoglobulin was administered both in the 
area of the bite as well as the arm. The Vaccine was 
administered in the arm. Patient told to follow up with ___ 
clinic to get remaining 4 injections to complete the series.
.
#ARF: Admitted with midly elevated Cr=1.2. Gave IVF and Cr 
dropped down to 1.0. Baseline Cr from 0.9-1.3 range. Likely 
pre-renal in setting of recent poor PO's.

#HTN: Home medications. Atenolol, imdur, losartan

#Asthma: Fluticasone 110mcg 2 puffs orally BID

#CAD: ASA 325, Atorvastatin 80, atenolol 50, Lisinopril.

#Daily Vitamins: MVT, Calcium and Vit D3.
 
Medications on Admission:
ATENOLOL - 50 mg Tablet - 1 Tablet(s) by mouth once a day
ATORVASTATIN [LIPITOR] - 80 mg Tablet - 1 (One) Tablet(s) by
mouth once a day
COMBIVENT AERO 120-20 MCG/ACT - - 2 PUFFS FOUR TIMES A DAY
FLUTICASONE [FLOVENT HFA] - 110 mcg/Actuation Aerosol - take 2
puffs orally twice daily
ISOSORBIDE MONONITRATE [IMDUR] - 30 mg Tablet Sustained Release
24 hr - 1 Tablet(s) by mouth once a day with supper
LOSARTAN [COZAAR] - 50 mg Tablet - 1 (One) Tablet(s) by mouth
once a day
MIRTAZAPINE - 15 mg Tablet, Rapid Dissolve - 1 (One) Tablet(s) 
by
mouth once a day
NITROGLYCERIN - 0.4 mg Tablet, Sublingual - 1 (One) Tablet(s)
sublingually under the tongue as needed for chest pain may be
repeated Q 5 minutes x2 call ___
Medications - OTC
ACETAMINOPHEN - 500 mg Tablet - 2 (Two) Tablet(s) by mouth every
eight (8) hours as needed
ASPIRIN - 325 mg Tablet - 1 (One) Tablet(s) by mouth once a day
CALCIUM CARBONATE-VITAMIN D3 [CALCIUM 600 + D(3)] - 600 mg-400
unit Tablet - one Tablet by mouth twice daily
MULTIVITAMIN WITH IRON [DAILY VITAMIN W/IRON] - Tablet - 1
(One) Tablet(s) by mouth once a day
.
 
Discharge Medications:
1. Percocet 2.5-325 mg Tablet Sig: One (1) Tablet PO TID PRN as 
needed for pain: Do NOT take with Tylenol. Limit your tylenol to 
3g/day total.
Disp:*9 Tablet(s)* Refills:*0*
2. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
3. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Ipratropium-Albuterol ___ mcg/Actuation Aerosol Sig: Two 
(2) Puff Inhalation Q6H (every 6 hours) as needed for wheezing, 
SOB.  
6. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
7. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY WITH DINNER 
().  
8. Losartan 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
9. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
10. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

11. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Amoxicillin-Pot Clavulanate 250-125 mg Tablet Sig: Two (2) 
Tablet PO Q12H (every 12 hours) for 8 days.
Disp:*32 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cellulitis from cat bite

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
It was a pleasure providing care for you during your 
hospitalization. 

You were admitted for an infected cat bite in your ankle. You 
were given antibiotics through your veins. You will go home on 
antibiotics (pills) and you must continue the entire course. 
Some animals that bite have a very dangerous and serious disease 
called Rabies. You were given injections to prevent against 
rabies. You receieved an immunoglobulin injection as well as a 
rabies vaccine on ___. You must get 4 more rabies vaccines 
in the coming days. You will need the vaccine on the following 
days: ___. You will 
follow a special infectious disease doctor who will give you 
these vaccines during these days.
It is also important to follow up with Animal Control and find 
the cat that bit you.

No changes were made to your medications.

You must continue all of your home medicines when you leave the 
hosptial.

In addition, you must continue to take the antibiotics for the 
entire duration.

Please see your primary doctor in the next week. You will also 
be following with special Infectious Disease Doctors to give ___ 
the rabies shots. That appointment is on ___. 
 
Followup Instructions:
___